US06759554B2
trans-N-(4-Dimethylaminophenyl)-3-phenylpropenamide
A 15 mL resealable Schlenk tube was charged with CuI (9.6 mg, 0.0504 mmol, 5.0 mol %), 4-dimethylamino-1-bromobenzene (201 mg, 1.00 mmol), trans-cinnamamide (178 mg, 1.21 mmol), K2CO3 (280 mg, 2.03 mmol), evacuated and backfilled with argon. trans-N,N′-Dimethyl-1,2-cyclohexanediamine (16 μL, 0.102 mmol, 10 mol %) and toluene (1.0 mL) were added under argon. The Schlenk tube was sealed with a Teflon valve and the reaction mixture was stirred at 110° C. for 23 h. The resulting bright yellow suspension was allowed to reach room temperature and then filtered through a 0.5×1 cm pad of silica gel eluting with 10 mL of ethyl acetate-dichloromethane 1:1. The filtrate was concentrated, the residue was dissolved in 10 mL of dichloromethane and purified by flash chromatography on silica gel (2×20 cm, ethyl acetate-dichloromethane 1:4, 15 mL fractions). Fractions 10-20 provided 261 mg (98% yield) of the desired product as a bright yellow solid.

reactant | 4-dimethylamino-1-bromobenzene | 1.00 mmol, 201 mg | CN(C1=CC=C(C=C1)Br)C | C8H10BrN
reactant | trans-cinnamamide | 1.21 mmol, 178 mg | C(\C=C\C1=CC=CC=C1)(=O)N | C9H9NO
reactant | K2CO3 | 2.03 mmol, 280 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | trans-N,N′-Dimethyl-1,2-cyclohexanediamine | 0.102 mmol, 16 μL | CN[C@H]1[C@@H](CCCC1)NC | C8H18N2
catalyst | CuI | 0.0504 mmol, 9.6 mg | [Cu]I
solvent | toluene | 1.0 mL | C1(=CC=CC=C1)C | C7H8
product | trans-N-(4-Dimethylaminophenyl)-3-phenylpropenamide | 261 mg, 98% yield | CN(C1=CC=C(C=C1)NC(\C=C\C1=CC=CC=C1)=O)C | C17H18N2O
